US03937833
A solution of 12.8 g (0.044 mole) of dibenzofuran-2,8-dicarbonyl chloride and 12.6 g (0.088 mole) of 3-piperidinopropanol in 1 liter of chloroform is refluxed for 4 hours. Upon dilution with diethyl ether, the product is collected and crystallized from ethanol, to give bis(3-piperidinopropyl)dibenzofuran-2,8-dicarboxylate dihydrochloride monohydrate, M.P. 252°-253°C.

reactant | dibenzofuran-2,8-dicarbonyl chloride | 0.044 mole, 12.8 g | C1=C(C=CC=2OC3=C(C21)C=C(C=C3)C(=O)Cl)C(=O)Cl | C14H6Cl2O3
reactant | 3-piperidinopropanol | 0.088 mole, 12.6 g | N1(CCCCC1)CCCO | C8H17NO
solvent | chloroform | 1 liter | C(Cl)(Cl)Cl | CHCl3
product | bis(3-piperidinopropyl)dibenzofuran-2,8-dicarboxylate dihydrochloride monohydrate | O.Cl.Cl.N1(CCCCC1)CCCOC(=O)C1=CC2=C(OC3=C2C=C(C=C3)C(=O)OCCCN3CCCCC3)C=C1 | InChI=1S/C30H38N2O5.2ClH.H2O/c33-29(35-19-7-17-31-13-3-1-4-14-31)23-9-11-27-25(21-23)26-22-24(10-12-28(26)37-27)30(34)36-20-8-18-32-15-5-2-6-16-32;;;/h9-12,21-22H,1-8,13-20H2;2*1H;1H2
